US06989382B2
To 20 mgs of 6-[(2-{[4-amino-3-(2,4-dichlorophenyl)phenyl]amino}ethyl)-aminopyridine-3-carbonitrile in tetrahydrofuran was added 19 mgs of BOC-sarcosine, 38 mgs of HBTU and 26.2 μl of N,N-diisopropylethylamine, and the mixture was stirred at room temperature over-night. After partitioning the mixture between ethyl acetate and water the organic layer was concentrated. To it was added dichloromethane and TFA to yield 1.2 mgs of 93% pure N˜1˜-[2′,4′-dichloro-5-({2-[(5-cyanopyridin-2-yl)amino]ethyl}amino)-1,1′-biphenyl-2-yl]-N˜2˜-methylglycinamide as the TFA salt after HPLC purification.

reactant | (2-{[4-amino-3-(2,4-dichlorophenyl)phenyl]amino}ethyl)-aminopyridine-3-carbonitrile | NC1=C(C=C(C=C1)NCCC1=C(C(=NC=C1)N)C#N)C1=C(C=C(C=C1)Cl)Cl | C20H17Cl2N5
reactant | BOC-sarcosine | 19 mgs | C(=O)(OC(C)(C)C)N(C)CC(=O)O | C8H15NO4
reactant | HBTU | 38 mgs | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 26.2 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N˜1˜-[2′,4′-dichloro-5-({2-[(5-cyanopyridin-2-yl)amino]ethyl}amino)-1,1′-biphenyl-2-yl]-N˜2˜-methylglycinamide | 1.2 mgs, 93% | ClC1=C(C=CC(=C1)Cl)C1=C(C=CC(=C1)NCCNC1=NC=C(C=C1)C#N)NC(CNC)=O | C23H22Cl2N6O
